US04051177
50 g of 3-nitrostyrene are dissolved in 240 g of methanol. 10 g of an 18% strength suspension of CoS3 in methanol are added to the solution. The mixture is heated to 100° C in the presence of 30 bars of H2 in a stainless steel autoclave. After 5 hours, the absorption of hydrogen is complete. The mixture is heated for a further half hour to 110° C at 30 bars of H2. 0.5 g of tert.-butyl-pyrocatechol is added to the cooled contents of the autoclave, the mixture is filtered and the solvent is distilled off. 37 g of 3-aminostyrene are obtained. Boiling point16 = 113° -115° C, ND20 = 1.6102.

reactant | 3-nitrostyrene | 50 g | [N+](=O)([O-])C=1C=C(C=C)C=CC1 | C8H7NO2
solvent | methanol | 240 g | CO | CH4O
product | 3-aminostyrene | 37 g | NC=1C=C(C=C)C=CC1 | C8H9N
